US07129259B2
To a solution of 3-(3-fluoro-4-iodo-phenyl)-5-hydroxymethyl-oxazolidin-2-one (1.0 g, 2.97 mmol), isoxazol-3-ol (0.30 g, 3.56 mmol) and triphenylphosphine (1.02 g, 3.86 mmol) in THF (15 mL) was added diisopropyl azodicarboxylate (DIAD, 0.74 mL, 3.56 mmol) dropwise at 0° C. The reaction was warmed to room temperature and stirring was continued for 2 h. The solvent was evaporated and the crude was purified on silica gel, eluting with hexanes/EtOAc 2:1 to 3:2, to give 3-(3-fluoro-4-iodo-phenyl)-5-(isoxazol-3-yloxymethyl)-oxazolidin-2-one (1.01 g; 84% yield).

reactant | 3-(3-fluoro-4-iodo-phenyl)-5-hydroxymethyl-oxazolidin-2-one | 2.97 mmol, 1.0 g | FC=1C=C(C=CC1I)N1C(OC(C1)CO)=O | C10H9FINO3
reactant | isoxazol-3-ol | 3.56 mmol, 0.30 g | O1N=C(C=C1)O | C3H3NO2
reactant | triphenylphosphine | 3.86 mmol, 1.02 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 3.56 mmol, 0.74 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3-(3-fluoro-4-iodo-phenyl)-5-(isoxazol-3-yloxymethyl)-oxazolidin-2-one | 1.01 g, 84% yield | FC=1C=C(C=CC1I)N1C(OC(C1)COC1=NOC=C1)=O | C13H10FIN2O4
